US08686048B2
Intermediate 68: 3-fluoro-3′-propoxybiphenyl-4-amine
The title compound (280 mg) was prepared from 4-bromo-2-fluoroaniline (390 mg, 1.6 mmol) and 3-propoxyphenylboronic acid (369 mg, 2 mmol) as a colourless liquid.

reactant | 4-bromo-2-fluoroaniline | 1.6 mmol, 390 mg | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
reactant | 3-propoxyphenylboronic acid | 2 mmol, 369 mg | C(CC)OC=1C=C(C=CC1)B(O)O | C9H13BO3
product | 3-fluoro-3′-propoxybiphenyl-4-amine | 280 mg | FC=1C=C(C=CC1N)C1=CC(=CC=C1)OCCC | C15H16FNO
